US04806561
A mechanically stirred solution of dry 4-methoxyacetanilide (0.25 mol) in anhydrous toluene (500 mL) was treated with NaH (57% oil dispersion, 11.57 g, 0.28 mol) and heated under reflux for 2 h (hours). Ethyl 2-bromopropionate (37.5 mL, 0.29 mol) was added and the mixture was refluxed for 2 h. The cooled mixture was centrifuged to facilitate separation of the NaBr and filtered, and the toluene solution was evaporated to dryness in vacuo. The syrupy residue was dissolved in ethanol (300 mL), a solution of NaOH (20 g) in water (30 mL) was added, and the mixture was heated under reflux for 1 h. The cooled solution was concentrated in vacuo, water (700 mL) was added, and the mixture was extracted with CH2Cl2 (2×200 mL). The mixture was acidified to pH 1 with concentrated HCl, the precipitate which formed was collected and crystallized from ethanol-water to give N-acetyl-N-(4-methoxyphenyl)alanine in 70% yield: mp (melting point) 197°-201° C.

reactant | 4-methoxyacetanilide | 0.25 mol | CC(=O)NC1=CC=C(C=C1)OC | C9H11NO2
reactant | NaH | 0.28 mol, 11.57 g | [H-].[Na+]
reactant | Ethyl 2-bromopropionate | 0.29 mol, 37.5 mL | BrC(C(=O)OCC)C | C5H9BrO2
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | N-acetyl-N-(4-methoxyphenyl)alanine | 70% yield | C(C)(=O)N([C@@H](C)C(=O)O)C1=CC=C(C=C1)OC | C12H15NO4
